US09428511B2
To a solution of ethyl 1-amino-1H-imidazole-2-carboxylate (1.776 g, 11.35 mmol) and DMAP (0.699 g, 5.73 mmol) in DMF (18 ml) was added di-tert-butyl dicarbonate (3.61 ml, 15.55 mmol). The reaction was heated at 85° C. for 4 h, and was then evaporated to dryness under reduced pressure. The crude product mixture was dissolved in a small amount of DCM and charged to a 40 g silica gel cartridge which was eluted with 10-40% EtOAc in hexane to give ethyl 1-((tert-butoxycarbonyl)amino)-1H-imidazole-2-carboxylate as a white solid (2.13 g, 72.9% yield). LCMS (Method B): m/z 256.1 [M+1]; HPLC (Method B): Rt 2.163 min. 1H NMR (400 MHz, MeOD) δ 7.34 (d, J=1.3 Hz, 1H), 7.11 (d, J=1.1 Hz, 1H), 5.49 (s, 1H), 4.37 (q, J=7.0 Hz, 2H), 1.49 (br. s., 9H), 1.42-1.35 (m, 3H).

reactant | ethyl 1-amino-1H-imidazole-2-carboxylate | 11.35 mmol, 1.776 g | NN1C(=NC=C1)C(=O)OCC | C6H9N3O2
reactant | di-tert-butyl dicarbonate | 15.55 mmol, 3.61 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 5.73 mmol, 0.699 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
product | ethyl 1-((tert-butoxycarbonyl)amino)-1H-imidazole-2-carboxylate | 2.13 g, 72.9% yield | C(C)(C)(C)OC(=O)NN1C(=NC=C1)C(=O)OCC | C11H17N3O4
